US05663175
Preparation of 1(R)-acetoxymethyl-2(S)-bromomethylcyclohex-4-ene (XI)
To a solution of dichloromethane (20 mL), tetrabromomethane (1.5 eq) and 1(R)-acetoxymethyl-2(S)-hydroxymethylcyclohex-4-ene (6.8 mmol) was added a solution of triphenylphosphine (1.2 eq) in dichloromethane (5 mL) and the reaction stirred in the dark for four days. The reaction was concentrated to a dark oil and triturated with ether. The solid was filtered and the filtrate concentrated and purified by silica gel chromatography to yield the desired compound as a colorless oil. 1HNMR (500 mHz), CDCl3): 5.64 ppm (dd, 2H), 4.09-4.0 (m, 2H); 3.48 (dd, 1H); 3.38 (t, 1H); 2.08 (s, 3H).

reactant | tetrabromomethane | 1.5 eq | BrC(Br)(Br)Br | CBr4
reactant | 1(R)-acetoxymethyl-2(S)-hydroxymethylcyclohex-4-ene | 6.8 mmol | C(C)(=O)OC[C@H]1[C@H](CC=CC1)CO | C10H16O3
reactant | triphenylphosphine | 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1(R)-acetoxymethyl-2(S)-bromomethylcyclohex-4-ene | C(C)(=O)OC[C@H]1[C@H](CC=CC1)CBr | C10H15BrO2
